US04508561
2-[1-(2-difluoromethoxy-5-chlorophenyl)ethylsulfonyl]pyridine-N-oxide
In the same manner as in Example 1, 8.86 g of 2-(2-difluoromethoxy-5-chlorobenzylsulfonyl)pyridine-N-oxide, 1.11 g of 55% sodium hydride and 3.60 g of methyl iodide were mixed with 150 ml of dimethylformamide and the mixture was reacted followed by the same after-treatment as in Example 1, whereby 7.00 g of Compound No. 15 of the present invention was obtained. The product was white crystals having a melting point of from 145°-147° C.

reactant | 2-(2-difluoromethoxy-5-chlorobenzylsulfonyl)pyridine-N-oxide | 8.86 g | FC(OC1=C(CS(=O)(=O)C2=[N+](C=CC=C2)[O-])C=C(C=C1)Cl)F | C13H10ClF2NO4S
reactant | sodium hydride | 1.11 g | [H-].[Na+]
reactant | methyl iodide | 3.60 g | CI | CH3I
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-[1-(2-difluoromethoxy-5-chlorophenyl)ethylsulfonyl]pyridine-N-oxide | FC(OC1=C(C=C(C=C1)Cl)C(C)S(=O)(=O)C1=[N+](C=CC=C1)[O-])F | C14H12ClF2NO4S
